Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cipro / sertraline
 
Attending: ___.
 
Chief Complaint:
Foul smelling urine
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Mr. ___ is a ___ male with a past medical 
history
of metastatic bladder cancer and bilateral nephrostomy tubes who
presented with abdominal pain.

He has been having suprapubic abdominal pain over the past two
weeks or so, first thought to be secondary to constipation since
it improved initially with a bowel movement. His ___ then 
noticed
foul smelling urine. He has been increasingly fatigued. He is
voiding both through the nephrostomy tubes and his penis.
Sometimes all of his urine is through the nephrostomy tubes but
this varies. He has had no known fevers at home.

He was sent to urgent care where a urine specimen obtained from
his nephrostomy tubes was notable for ___ WBCs and positive
nitrites. Due to cipro allergy, decision was made to admit for 
IV
antibiotics to treat for complicated UTI.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
Metastatic bladder cancer - chemotherapy on hold; providers are 
at ___
Prostate cancer
Atrial fibrillation
Depression
 
Social History:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
EXAM
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation
GU: No suprapubic fullness or tenderness to palpation. Bilateral
nephrostomy tubes in place draining yellow urine.  No flank 
tenderness.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 02:50PM BLOOD WBC-7.5# RBC-2.62* Hgb-8.9* Hct-27.2* 
MCV-104*# MCH-34.0* MCHC-32.7 RDW-15.9* RDWSD-60.8* Plt ___
___ 05:44AM BLOOD WBC-8.6 RBC-2.84* Hgb-9.4* Hct-29.2* 
MCV-103* MCH-33.1* MCHC-32.2 RDW-15.7* RDWSD-59.7* Plt ___
___ 02:50PM BLOOD Glucose-88 UreaN-20 Creat-1.1 Na-136 
K-3.5 Cl-104 HCO3-22 AnGap-10
___ 05:44AM BLOOD Glucose-81 UreaN-17 Creat-1.1 Na-141 
K-4.4 Cl-107 HCO3-22 AnGap-12
___ 02:50PM BLOOD Albumin-2.7*

Urine culture
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   0.5 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Mr. ___ is a ___ male with a past
medical history of metastatic bladder cancer and bilateral
nephrostomy tubes who presented with abdominal pain and foul 
smelling urine

ACUTE/ACTIVE PROBLEMS:
# ? Complicated UTI.  Patient without fevers, flank pain, 
constitutional symptoms, leukocytosis.    His abdominal pain 
improved when he was standing.    However, given his history of 
chemotherapy, malignancy and instrumentation with PCN tubes, it 
was decided to complete a week course of treatment (he had 
received ceftriaxone while hospitalized) and he was discharged 
on cefpodoxime.   His foul smelling urine may be due to not 
emptying nephrostomy tube frequently enough.   He was encouraged 
to empty bags more frequently.  I discussed his case with ___ 
staff who noted that there was no indication to change the date 
of changing his nephrostomy tubes. 

# Abdominal pain:   Worse at night, improves when he stands up, 
no tenderness to palpation.   Very mild, at most a ___.  Will 
monitor for now.  

CHRONIC/STABLE PROBLEMS:

# Metastatic bladder cancer:
- continue fentanyl patch
- continue home megestrol

# pAF:
- continue home metoprolol 25mg BID
- continue home apixaban 2.5mg BID (meets criteria for higher
dose but says this dose was agreed upon by his cardiologist and
oncologist)

# GERD:
- continue home omeprazole
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Fentanyl Patch 25 mcg/h TD Q72H 
3. Apixaban 2.5 mg PO BID 
4. Megestrol Acetate 400 mg PO DAILY 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. Metoprolol Tartrate 25 mg PO BID 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO Q12H 
Take for five additional days  
2.  Apixaban 2.5 mg PO BID  
3.  Fentanyl Patch 25 mcg/h TD Q72H  
4.  Megestrol Acetate 400 mg PO DAILY  
5.  Metoprolol Tartrate 25 mg PO BID  
6.  Omeprazole 20 mg PO DAILY  
7.  Ondansetron 4 mg PO Q8H:PRN nausea  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1.  Urinary tract infection
2.  Metastatic bladder cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with foul smelling urine and some abdominal 
pain.  There is bacteria growing in the urine so these symptoms 
may be from a urinary tract infection.  Please complete an 
additional five days of antibiotics for this.   Please drain 
your nephrostomy tubes frequently to prevent the foul smell from 
recurring.    I have faxed a prescription for the antibiotic 
cefpodoxime to the ___ in ___ for you.  Please take 400 mg twice 
a day for 5 days.
 
Followup Instructions:
___